US07465730B2
Utilizing the general procedure outlined in Example 65, 1-[4-acetyl-1-(4-hydroxy-2,3-dimethyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone (100 mg, 0.3 mmol) reacted with bromoethane (300 μL, excess), in the presence of K2CO3 (50 mg), to afford 1-[4-acetyl-1-(4-ethoxy-2,3-dimethyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone: MS (ESI) 328 (M+H)+. Utilizing the general procedure outlined in Example 48, 1-[4-acetyl-1-(4-ethoxy-2,3-dimethyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone (108 mg, 0.3) and hydrazine (50 μL) reacted to give 6-(4-Ethoxy-2,3-dimethyl-phenyl)-1,4,5,7-tetramethyl-6H-pyrrolo[3,4-d]pyridazine as off-white solid: 1H NMR (CDCl3, 500 MHz) δ 6.92 (d, 1H), 6.86 (d, 1H), 4.14 (q, 2H), 2.83 (s, 6H), 2.36 (s, 6H), 2.28 (s, 3H), 1.72 (s, 3H), 1.52 (t, 3H); MS (ESI) 324 (M+H)+.

reactant | 1-[4-acetyl-1-(4-hydroxy-2,3-dimethyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | 0.3 mmol, 100 mg | C(C)(=O)C=1C(=C(N(C1C)C1=C(C(=C(C=C1)O)C)C)C)C(C)=O | C18H21NO3
reactant | K2CO3 | 50 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | bromoethane | 300 μL | BrCC | C2H5Br
product | 1-[4-acetyl-1-(4-ethoxy-2,3-dimethyl-phenyl)-2,5-dimethyl-1H-pyrrol-3-yl]-ethanone | C(C)(=O)C=1C(=C(N(C1C)C1=C(C(=C(C=C1)OCC)C)C)C)C(C)=O | C20H25NO3
